US08980877B2
(E)-3-(1′-(4-Fluorobenzyl)-4-(methoxyimino)spiro[chroman-2,3′-piperidine]-6-yl)-N-hydroxyacrylamide
A mixture of (E)-3-(1′-(4-fluorobenzyl)-4-oxospiro[chroman-2,3′-piperidine]-6-yl)-N-hydroxyacrylamide hydrochloride (80 mg, 0.179 mmol) and O-methylhydroxylamine hydrochloride (32.6 mg, 0.390 mmol) in ethanol (2 ml) and pyridine (0.031 ml, 0.390 mmol) was heated at 80° C. for 2 h. The solvent was removed in vacuo and the crude product was purified by preparative LC-MS to give the title compound (33.04 mg) as its trifluoroacetate salt.

reactant | (E)-3-(1′-(4-fluorobenzyl)-4-oxospiro[chroman-2,3′-piperidine]-6-yl)-N-hydroxyacrylamide hydrochloride | 0.179 mmol, 80 mg | Cl.FC1=CC=C(CN2CC3(CCC2)OC2=CC=C(C=C2C(C3)=O)/C=C/C(=O)NO)C=C1
reactant | O-methylhydroxylamine hydrochloride | 0.390 mmol, 32.6 mg | Cl.CON
reactant | pyridine | 0.390 mmol, 0.031 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (E)-3-(1′-(4-Fluorobenzyl)-4-(methoxyimino)spiro[chroman-2,3′-piperidine]-6-yl)-N-hydroxyacrylamide | 33.04 mg | FC1=CC=C(CN2CC3(CCC2)OC2=CC=C(C=C2C(C3)=NOC)/C=C/C(=O)NO)C=C1 | C24H26FN3O4
